US07427683B2
a) 1-(5-Chloro-2-nitro-phenyl)-piperidine
To a cooled (0° C.) solution of 1.75 g (10.0 mmol) of 4-chloro-2-fluoronitrobenzene in 15 mL of EtOH was added 2.97 mL (30.0 mmol) of piperidine dropwise over 5 min. The solution stirred at 0° C. for 10 min and then at 23° C. for 30 min. The mixture was poured into water (225 mL) and extracted with EtOAc (2×30 mL). The combined extracts were washed with saturated aq NaHCO3 and brine (30 mL each) and then dried (Na2SO4). Concentration afforded 2.33 g (97%) of the title compound as an orange oil which crystallized on standing: Mass spectrum (ESI, m/z): Calcd. for C11H13ClN2O2, 241.1 (M+H), found 241.1.

reactant | 4-chloro-2-fluoronitrobenzene | 10.0 mmol, 1.75 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | piperidine | 30.0 mmol, 2.97 mL | N1CCCCC1 | C5H11N
reactant | water | 225 mL | O | H2O
solvent | EtOH | 15 mL | CCO | C2H6O
product | 1-(5-Chloro-2-nitro-phenyl)-piperidine | 2.33 g, 97% | ClC=1C=CC(=C(C1)N1CCCCC1)[N+](=O)[O-] | C11H13ClN2O2
